US04384879
(e) Preparation of the final product 4-(1H-1,2,4-triazolylmethyl)-4-(4-chlorophenyl)-2,2-diethyl-1,3-dioxolan-5-one
With stirring and under nitrogen 5.2 g of sodium hydride (55% dispersion in oil) are added to 50 ml of absolute dimethyl formamide and then 16.6 g of 1,2,4-triazole are added dropwise, whereupon elemental hydrogen escapes. The reaction mixture is heated for 2 hours to 70° C., then cooled to room temperature and a solution of 29 g (0.08 mole) of 2,2-diethyl-4-(chlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolan-5-one in 50 ml of dimethyl formamide are added dropwise. The mixture is then heated until the reaction is complete. The reaction solution is cooled and, after addition of 100 ml of ice-water, the mixture is poured into ice-water. The precipitate is isolated by filtration and dissolved in methylene chloride. The methylene chloride solution is washed with water and dried over sodium sulfate and evaporated to dryness to form a resin, which crystallises by addition of a small amount of diethyl ether. The crystals are collected by filtration and washed with petroleum ether. Compound IX has a melting point of 105°-108° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 1,2,4-triazole | 16.6 g | N1N=CN=C1 | C2H3N3
reactant | hydrogen | [H][H] | H2
reactant | 2,2-diethyl-4-(chlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolan-5-one | 0.08 mole, 29 g | C(C)C1(OC(C(O1)(COS(=O)(=O)C)C1=C(C=CC=C1)Cl)=O)CC | C15H19ClO6S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(1H-1,2,4-triazolylmethyl)-4-(4-chlorophenyl)-2,2-diethyl-1,3-dioxolan-5-one | N1(N=CN=C1)CC1(OC(OC1=O)(CC)CC)C1=CC=C(C=C1)Cl | C16H18ClN3O3
